US05098930
Using the procedure described in Example 5, 2-bromomethylnaphthalene was reacted with 4-bromophenol to give 4-(naphth-2-ylmethoxy)bromobenzene (99%), m.p. 104°-106° C.

reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | 4-(naphth-2-ylmethoxy)bromobenzene | 99% | C1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)Br | C17H13BrO
